US08404676B2
Intermediate 36: 3-cyano-4-(2-methylpiperidin-1-yl)benzoic acid
2-Methylpiperidine (744 mg; 7.5 mmol; 5 eq.) was added to a solution of methyl 3-cyano-4-fluorobenzoate (269 mg; 1.5 mmol; 1 eq.) in DMF (2 mL) and the resulting mixture was stirred at room temperature for 2 days. The solution was partitioned between ethyl acetate and water and the phases separated. The organic layer was washed with HCl 0.1M then brine, dried over magnesium sulfate and concentrated in vacuo. The residue was taken up in THF (5 mL) and LiOH (126 mg; 3 mmol; 2 eq.) then water (5 mL) were added and the reaction mixture was stirred at room temperature for 5 hours. The resulting solution was diluted with water and washed with Et2O. The aqueous layer was acidified to pH 2 with HCl 0.1M and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated in vacuo to afford the title compound (294 mg, 80%) as an off-white solid.

reactant | 2-Methylpiperidine | 7.5 mmol, 744 mg, 5 eq. | CC1NCCCC1 | C6H13N
reactant | methyl 3-cyano-4-fluorobenzoate | 1.5 mmol, 269 mg, 1 eq. | C(#N)C=1C=C(C(=O)OC)C=CC1F | C9H6FNO2
reactant | LiOH | 3 mmol, 126 mg, 2 eq. | [Li+].[OH-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
product | 3-cyano-4-(2-methylpiperidin-1-yl)benzoic acid | 294 mg, 80% | C(#N)C=1C=C(C(=O)O)C=CC1N1C(CCCC1)C | C14H16N2O2
